US06326184B1
Liquid rich medium high in glucose content (10 ml PS-medium in 25 ml tube) was inoculated with the appropriate yeast strain and grown overnight at 30° C. 1-2 ml of this culture containing 107 cells was used to inoculate 50 ml fresh medium in a 250 ml conical flask. The culture was incubated at room temperature for 5 days with agitation (90 rpm.). Yeast cells were sedimented overnight at 4° C. and the supernatant discarded. 50 ml fresh medium was added to the cells and 2. generation fermentation performed as above. 25 ml supernatant from the fermentation was delivered for GC-headspace analysis (see below) to determine the content of esters and alcohols. The results are shown in Table 5.5. The yeast strains carrying inactive alcohol acetyltransferase genes produced a reduced amount of acetate esters such as ethyl acetate and isoamyl acetate in comparison to the MBP94-21 strain.

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
product | isoamyl acetate | C(C)(=O)OCCC(C)C | C7H14O2
